* Extracted by KLayout with SG13G2 LVS runset on : 20/08/2026 11:10

.SUBCKT probe vtt vtt$1 vss vss$1 vtt$2
R$1 vtt vss$1 \$1 rppd w=1u l=5u ps=0u b=0 m=1
R$2 \$9 vtt$2 \$1 rppd w=1u l=0.5u ps=0u b=0 m=1
C$3 vtt$1 vss cap_cmim w=20u l=20u A=400p P=80u m=1
.ENDS probe
